US07589117B2
N-Isobutyl-3-methylphthalimide is prepared as described in Example 2, starting with 5.0 g of 3-methylphthalic anhydride, 3.0 cm3 of isobutylamine and a catalytic amount of para-toluenesulfonic acid in 50 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for 2.5 hours and then stirred at a temperature in the region of 20° C. for 16 hours. The reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The organic phase is separated out after settling has taken place, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 6.0 g of N-isobutyl-3-methylphthalimide are thus obtained in the form of a caramel-colored oil, Rf=0.76 (thin layer chromatography on silica gel, eluent: dichloromethane).

reactant | 3-methylphthalic anhydride | 5.0 g | CC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O3
reactant | isobutylamine | 3.0 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | N-isobutyl-3-methylphthalimide | 6.0 g | C(C(C)C)N1C(C=2C(C1=O)=C(C=CC2)C)=O | C13H15NO2
